US06753322B2
6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-{2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide
Prepared from N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide (Preparation 10) and N-[1-(2-pyridinyl)-4-piperidinyl]-1H-imidazole-1-carboxamide (Preparation 30) by a similar method to Example 1.

reactant | N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N8O5
reactant | N-[1-(2-pyridinyl)-4-piperidinyl]-1H-imidazole-1-carboxamide | N1=C(C=CC=C1)N1CCC(CC1)NC(=O)N1C=NC=C1 | C14H17N5O
product | 6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-{2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCNC(=O)NC1CCN(CC1)C1=NC=CC=C1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C40H47N11O6
